US04022769
Raney nickel is added to a solution of the above 17β,19-dihydroxy-1α-methyl-4-androsten-3-one 3-ethylenethioketal in methanol and the resulting suspension is refluxed for about 4 hours with rapid stirring. The suspension is cooled, filtered and the solvent evaporated. The residue is chromatographed on silica gel and eluted with methylenechloride. Recrystallization from acetone-hexane yields 1α-methyl-4-androstene-17β,19-diol.

reactant | 17β,19-dihydroxy-1α-methyl-4-androsten-3-one 3-ethylenethioketal | C1CSC2(C=C3CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3([C@H](C2)C)CO)O)O1 | C22H34O3S
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 1α-methyl-4-androstene-17β,19-diol | C[C@H]1CCC=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12CO)O | C20H32O2
